US05013864
Cyclohexyloxy acetic acid
A solution of cyclohexanol (1.75 g, 17.5 mmol) in THF was added, and the mixture was warmed to 25° C. for 1 hour. The THF was removed by distillation under vacuum, and a solution of sodium chloroacetate (2.5 g, 22 mmol) in DMSO (50 ml) was added. The reaction mixture was treated as in Example 3 and 2.3 g of product (83% yield) was obtained as a colorless oil.

reactant | cyclohexanol | 17.5 mmol, 1.75 g | C1(CCCCC1)O | C6H12O
reactant | sodium chloroacetate | 22 mmol, 2.5 g | ClCC(=O)[O-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | DMSO | 50 ml | CS(=O)C | C2H6OS
product | Cyclohexyloxy acetic acid | 2.3 g, 83% yield | C1(CCCCC1)OCC(=O)O | C8H14O3
